US05378729
Synthesis of 2-Acetamido-N-benzyl-2-(N-hydroxyamino)acetamide
Using 2-acetamido-N-benzyl-2-ethoxyacetamide (2.00 g, 8.0 mmol), BBr3 (1M in CH2Cl2, 8.8 mL, 8.8 mmol), and anhydrous NH2OH (5-6 equiv) gave an oily residue. The residue was separated in three components by flash chromatography on SiO2 gel (7.5% MeOH/CHCl3).

reactant | 2-acetamido-N-benzyl-2-ethoxyacetamide | 8.0 mmol, 2.00 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)OCC | C13H18N2O3
reactant | BBr3 | 8.8 mmol, 1M, 8.8 mL | B(Br)(Br)Br | BBr3
reactant | NH2OH | 5-6 equiv | NO | H3NO
product | 2-Acetamido-N-benzyl-2-(N-hydroxyamino)acetamide | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)NO | C11H15N3O3
